US08420695B2
2-anilino-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide
A sealed tube was charged with a stir bar and 2-amino-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide (150 mg, 0.480 mmol) and iodobenzene (98 mg, 0.480 mmol), Pd2(dba)3 (44 mg, 0.048 mmol), dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (114 mg, 0.240 mmol), and potassium carbonate (73 mg, 0.528 mmol). The tube was evacuated and backfilled with argon three times. Fully degassed tert-amyl alcohol (1.6 mL) was added to the mixture via syringe. The solution was sealed and stirred overnight in an oil bath at 100° C. The following day, the reaction was allowed to cool to room temperature, taken up in ethyl acetate, and washed with aqueous sodium bicarbonate and brine. The organic layers were collected, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Purification was conducted via silica gel chromatography (0-3% methanol in ethyl acetate). Fractions containing product were concentrated under reduced pressure, taken up in ethyl acetate and methanol, and recrystallized out using hexanes to yield the title product.

reactant | 2-amino-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide | 0.480 mmol, 150 mg | NC=1SC(=CC1C(=O)N)C1=C(C=C(C=C1F)C(C)(C)O)F | C14H14F2N2O2S
reactant | iodobenzene | 0.480 mmol, 98 mg | IC1=CC=CC=C1 | C6H5I
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.240 mmol, 114 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | potassium carbonate | 0.528 mmol, 73 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd2(dba)3 | 0.048 mmol, 44 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-anilino-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide | N(C1=CC=CC=C1)C=1SC(=CC1C(=O)N)C1=C(C=C(C=C1F)C(C)(C)O)F | C20H18F2N2O2S
